Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[C:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:6]1=[C:7]([H:17])[C:3]1([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10],61.8514801598044
[C:1]([C:2]([C:3]([C:4]([C:5]([H:15])([H:16])[H:17])([C:6]([H:18])([H:19])[H:20])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5]([H:15])([H:16])[H:17])(=[C:6]([H:18])[H:19])[H:14].[H:10][H:20],76.4891541404094
[C:1]([O:2]/[C:3]([O:4][H:12])=[C:5](/[O:6][H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],33.98030182343201
[C:1]([C:2]([O:3][H:11])=[C:4]=[C:5]([N+:7]#[C-:6])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],57.54764944027709
[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[C:2]1([C:5](=[O:6])[H:12])=[C:3]([H:8])[C:4]1([H:10])[H:11].[O:1]([H:7])[H:9],71.36044368187021
[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]1([H:16])[H:17])[O:7]2)([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:3]([H:12])[C@:4]([C:5]([H:13])([H:14])[H:15])([O:7][H:11])[C:6]1([H:16])[H:17])([H:8])([H:9])[H:10],63.2381416165724
[C-:1]([O+:2]=[C:3]1[O:4][C@:6]([O:7][H:9])([H:13])[C:5]1([H:11])[H:12])([H:8])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],11.49808646259092
[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:6](=[C:5])[H:10])([H:8])[H:9])[H:7],50.960135157137394
[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2]([O:3][C:4](=[O:5])[H:12])=[C:6](/[O:7][H:11])[H:13])([H:8])([H:9])[H:10],31.887185240244797
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10].[C:5]([C:6]([H:18])([H:19])[H:20])[O:7][H:21],69.49478843704371
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6](=[O:7])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:17][H:19],86.5924258298439
[C:1]([H:8])([H:9])([H:10])[H:15].[C:2](=[N:3]/[C:4](=[C:5](\[N+:6]#[C-:7])[H:14])[H:13])([H:11])[H:12]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],54.157039604035695
[C+:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C-:5]=[C:6]([H:16])[C@@:7]12[H:17].[C:1]([H:8])([H:9])([H:10])[H:15]>>[C:1]([C@@:2]1([H:11])[C@@:3]2([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])=[C:6]([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],43.979529584367725
[C-:1]([N+:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9],19.2780168501521
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4](=[O:5])[C@:7]1([C:6]([H:14])([H:15])[H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10],90.6787095594689
[C:1]([C:2]1=[C:3]2[C:4]([H:11])([H:12])[C@:5]12[O:6][C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],51.3306062384056
[N:1](=[C:2]=[C:6]([C:4](=[O:3])[H:9])[N:7]=[O:5])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],28.2014908117092
[C:1]([C@@:2]([O:3][H:12])([C-:4]([N+:5]([C:6](=[O:7])[H:16])([H:13])[H:15])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],17.299325143095004
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:1]1([H:9])[C:2]([H:11])([H:12])[C@:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([H:13])[C:6]([H:19])=[O+:7]1.[H:8][H:10],103.437856940917
[C:1]([C@:2]1([C:6](=[O:7])[H:13])[O:3][C@:4]1([O:5][H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],33.400901468566296
[O:1]=[C:2]([N:7]([C:6]([C:5](/[C:4](=[N:3]/[H:8])[H:9])([H:11])[H:12])([H:13])[H:14])[H:15])[H:10]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15],67.410380878784
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:5][C:4](=[C:3]([H:12])[H:13])[H:14])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],70.4397694764788
